US09353108B2
A) Ethyl 4-bromo-3,5-dihydroxybenzoate
A mixture of 4-bromo-3,5-dihydroxybenzoic acid (45.0 g), concentrated sulfuric acid (5 mL), and ethanol (300 mL) was heated to reflux for 24 hours. The solvent was distilled off under reduced pressure. The residue was diluted with ethyl acetate and washed with water, a saturated aqueous solution of sodium bicarbonate, and saturated saline in this order. The obtained organic layer was dried over anhydrous magnesium sulfate, and then, the solvent was distilled off under reduced pressure. The obtained solid was washed with hexane to obtain the title compound (48.3 g).

reactant | 4-bromo-3,5-dihydroxybenzoic acid | 45.0 g | BrC1=C(C=C(C(=O)O)C=C1O)O | C7H5BrO4
reactant | sulfuric acid | 5 mL | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 300 mL | C(C)O | C2H6O
product | Ethyl 4-bromo-3,5-dihydroxybenzoate | 48.3 g | BrC1=C(C=C(C(=O)OCC)C=C1O)O | C9H9BrO4
